US04704462
Step B: Preparation of 3a-acetoxy-2-(3,4-dimethoxyphenyl)-3-methyl-5-n-propyl-2,3,3a,6-tetrahydro-6-oxo-benzofuran and related compounds
Lead tetracetate (275 mg, 0.6 mmol) was added to a solution of (2S,3S)-6-Hydroxy-2-(3,4-dimethoxyphenyl)-3-methyl-5-propyl-2,3-dihydrobenzofuran (100 mg), 0.3 mmol) in dry methanol (10 ml), and the mixture was stirred at room temperature for 1.5 hours and evaporated to dryness. The products were extracted with dichloromethane and separated by flash chromatography on silica gel (hexane-ethyl acetate, 4:1 to 2:1, v/v) followed by HPLlC (silica gel; hexane-tetrahydrofuran, 4:1, v/v). The first eluted compound was (2S,3S,3aR)-2-(3,4-dimethoxyphenyl)-3a-methoxy-3-methyl-5-n-propyl-2,3,3a,6-tetrahydro-6-oxo-benzofuran (9 mg), n.m.r. (CDCl3): δ0.99 (t, J 7.5 Hz, CH2CH2CH3), 1.16 (d, J 7.0 Hz, CH3 --3), 1.55 (m, CH2CH2CH3), 2.20 (m, H-3), 2.39 (m, CH2CH2CH3), 3.16 (s, OCH3), 3.92 (s, s 2Ar--OCH3), 5.38 (d, J 9.5 Hz, H-2), 5.84 (s, H-7), 6.27 (s, H-4), 6.84-6.93 (Ar--H). The second spot was identified as (2S,3S,3aS)-2-(3,4-dimethoxyphenyl)-3a-methoxy-3-methyl-5-n-propyl-2,3,3a,6-tetrahydro-6-oxo-benzofuran (6 mg), n.m.r. (CDCl3): 0.96 (t, J 7.5 Hz, CH2CH2CH3), 1.15 (d, J 7.0 Hz, CH3 --3), 1.53 (m, CH2CH2CH3), 2.38 (m, CH2CH2CH3), 2.72 (m, H-3), 3.05 (s, OCH3), 3.90, 3.91 (s, s, 2OCH3), 5.26 (s, H-2) 5.92 (s, H-7), 6.22 (s, H-4), 6.88-7.06 (m, Ar--H). The corresponding epimeric acetates (24 mg, about 1:1 mixture) were separated by HPLC: (2S,3S,3aR)-3a-Acetoxy-2-(3,4-dimethoxyphenyl)-3-methyl-5-n-propyl-2,3,3a,6-tetrahydro-6-oxo-benzofuran n.m.r. (CDCl3): 0.93 (t, J 7.0 Hz, CH2CH2CH3), 1.34 (d, J 7.0 Hz, CH3 --3), 1.40 (m, CH2CH2CH3), 1.83 (m, CH2CH2CH3), 2.13 (s, OAc), 3.05 (m, H-3), 3.94, 3.95 (s, s, 2OCH3), 5.08 (d, J 8.2 Hz, H-2), 5.73 (s, H-7), 6.15 (d, J 1.5 Hz, H-4), 6.88-6.99 (m, Ar--H); and (2S,3S,3aS)-3a-Acetoxy-2-(3,4-dimethoxyphenyl)-3-methyl-5-n-propyl-2,3,3a,6-tetrahydro-6-oxo-benzofuran, n.m.r. (CDCl3): δ0.92 (t, J 7.02 Hz, CH2CH2CH3), 1.34 (d, J 7.0 Hz, CH3 --3), 1.38 (m, CH2CH2CH3), 1.83 (m, CH2CH2CH3), 2.13 (s, OAc), 3.07 (m, H-3), 3.94 (s, 2OCH3), 5.10 (d, J 7.6 Hz, H-2), 5.73 (s, H-7), 6.15 (d, J 1.5 Hz, H-4), 6.84-6.94 (m, Ar--H).

reactant | Lead tetracetate | 0.6 mmol, 275 mg | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | (2S,3S)-6-Hydroxy-2-(3,4-dimethoxyphenyl)-3-methyl-5-propyl-2,3-dihydrobenzofuran | 100 mg | OC1=CC2=C([C@@H]([C@H](O2)C2=CC(=C(C=C2)OC)OC)C)C=C1CCC | C20H24O4
solvent | methanol | 10 ml | CO | CH4O
product | 3a-acetoxy-2-(3,4-dimethoxyphenyl)-3-methyl-5-n-propyl-2,3,3a,6-tetrahydro-6-oxo-benzofuran | C(C)(=O)OC12C(C(OC1=CC(C(=C2)CCC)=O)C2=CC(=C(C=C2)OC)OC)C | C22H26O6
